US06288096B1
42.2 g (240 mmole) benzenesulfonyl chloride in dichloromethane was slowly added to a solution of 15 g (108 mmole) 4-hydroxyphenethyl alcohol and 24.3 g (240 mmole) triethylamine in 120 ml dichloromethane at 0° C. After stirring at 0° C. to room temperature the starting material was consumed, water was added, the phases were separated and the organic phase was evaporated in vacuo. Diisopropyl ether was added, two phases were formed, the diisopropyl ether phase was decanted off and the rest of solvent was evaporated to give 32.65 g (yield 73%) of 4-[phenylsulfonyloxy]phenethyl 1-benzenesulfonate.

reactant | benzenesulfonyl chloride | 240 mmole, 42.2 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 4-hydroxyphenethyl alcohol | 108 mmole, 15 g | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | triethylamine | 240 mmole, 24.3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-[phenylsulfonyloxy]phenethyl 1-benzenesulfonate | 32.65 g, yield 73% | C1(=CC=CC=C1)S(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1 | C20H18O6S2
